US09353101B2
Step A: Methyl 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
A solution of 4-bromo-3,5-dimethylbenzoic acid methyl ester (2.0 g, 8.23 mmol), bis(pinacolato)diboron (2.298 g, 9.05 mmol) and potassium acetate (2.422 g, 24.68 mmol) in 1,4-dioxane (41 mL) was sparged with nitrogen for 45 minutes. Added (2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2-aminoethyl)phenyl)]palladium(II) chloride (XPHOS Biphenyl Precatalyst) (0.162 g, 0.206 mmol) to the reaction, evacuated and charged three times with nitrogen, then heated to 100° C. The reaction was monitored by LCMS for completion. At completion the reaction was cooled to room temperature and partitioned between water and ethyl acetate. The organic was washed a second time with water, dried over sodium sulfate, filtered and evaporated. The crude was purified by silica gel chromatography, eluting with 33-100% CH2Cl2/hexanes to give the title compound. 1H NMR (CDCl3, 500 MHz) δ7.60 (s, 2H), 63.88 (s, 3H), 62.43 (s, 6H), 61.40 (s, 12H).

reactant | 4-bromo-3,5-dimethylbenzoic acid methyl ester | 8.23 mmol, 2.0 g | COC(C1=CC(=C(C(=C1)C)Br)C)=O | C10H11BrO2
reactant | bis(pinacolato)diboron | 9.05 mmol, 2.298 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 24.68 mmol, 2.422 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 41 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) chloride | 0.206 mmol, 0.162 g | [Pd](Cl)Cl
product | Methyl 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | CC=1C=C(C(=O)OC)C=C(C1B1OC(C(O1)(C)C)(C)C)C | C16H23BO4
